US05739132
To 200 ml of acetic acid were added 26.4 g of 2-amino-indane and 44.5 g of phthalic anhydride, and the mixture was refluxed under heating for 17 hours. The reaction mixture was poured into ice water, and crystals precipitated were collected by filtration, washed, dried and then recrystallized from ethyl acetate to obtain 45.04 g of 2-(1,3-isoindolinedion-2-yl)indane.

reactant | 2-amino-indane | 26.4 g | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | phthalic anhydride | 44.5 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-(1,3-isoindolinedion-2-yl)indane | 45.04 g | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=CC=C2C1)=O | C17H13NO2
